US08030337B2
2-[2-(4-Phenylbutyl)-6,7-dihydro-8H-indeno[5,4-d][1,3]oxazol-8-ylidene]ethanamine
To a solution of [2-(4-phenylbutyl)-6,7-dihydro-8H-indeno[5,4-d][1,3]oxazol-8-ylidene]acetonitrile (125 mg, 0.382 mmol) in ethanol (2.4 mL) were added Raney cobalt (1.2 g) and 2N ammonia/ethanol solution (1.2 mL), and the mixture was stirred at room temperature for 3 hr under a hydrogen atmosphere. The catalyst was filtered off using celite, and the filtrate was concentrated under reduced pressure to give the title compound. The obtained title compound was used for the reaction of Examples 6 and 7 without further purification.

reactant | [2-(4-phenylbutyl)-6,7-dihydro-8H-indeno[5,4-d][1,3]oxazol-8-ylidene]acetonitrile | 0.382 mmol, 125 mg | C1(=CC=CC=C1)CCCCC=1OC2=C(N1)C=CC=1CCC(C12)=CC#N | C22H20N2O
reactant | ammonia ethanol | 2N, 1.2 mL | N.C(C)O
solvent | ethanol | 2.4 mL | C(C)O | C2H6O
catalyst | cobalt | 1.2 g | [Co] | Co
product | 2-[2-(4-Phenylbutyl)-6,7-dihydro-8H-indeno[5,4-d][1,3]oxazol-8-ylidene]ethanamine | C1(=CC=CC=C1)CCCCC=1OC2=C(N1)C=CC=1CCC(C12)=CCN | C22H24N2O
